US06884821B1
0.50 g of ethyl 4-chloro-2-ethoxybenzoate, 0.31 g of phenylboric acid, 85 mg of 1,1-bis(diphenylphosphino)ferrocene dichloronickel and 1.4 g of potassium phosphate were dissolved in 8 ml dioxane, followed by stirring at 95° C. for 1 hour in a nitrogen atmosphere. After cooling the reaction solution to room temperature, ethyl acetate and water were added thereto. The mixture was filtered through Celite, and the mother liquor was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and the solvent was evaporated. The residue was subjected to silica gel column chromatography, and from fractions eluted with hexane-ethyl acetate (9:1), ethyl 2-ethoxy-4-phenylbenzoate was obtained. Then, the resulting ethyl 2-ethoxy-4-phenylbenzoate was dissolved in 4 ml ethanol, and 2 ml of 1N sodium hydroxide was added thereto, followed by stirring at room temperature for 6 hours. The reaction mixture was ice-cooled and neutralized with 1N hydrochloric acid, followed by extracting with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and the solvent was evaporated, to give 0.22 g of 2-ethoxy-4-phenylbenzoic acid.

reactant | ethyl 2-ethoxy-4-phenylbenzoate | C(C)OC1=C(C(=O)OCC)C=CC(=C1)C1=CC=CC=C1 | C17H18O3
reactant | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 2-ethoxy-4-phenylbenzoic acid | 0.22 g | C(C)OC1=C(C(=O)O)C=CC(=C1)C1=CC=CC=C1 | C15H14O3
